US03998834
A mixture of 5.9 parts of N-phenyl-N-[1-(2-phenylethyl)-4-(phenylmethoxymethyl)-4-piperidinyl]propanamide hydrochloride and 120 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and washed on the filter with methanol. The filtrate is evaporated. The oily residue solidifies on scratching. The solid product is crystallized from 20 parts of 2-propanone at room temperature. It is filtered off and recrystallized from 2-propanol at 0° C, yielding N-[4-(hydroxymethyl)-1-(2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide hydrochloride; mp. 218.4° C.

reactant | N-phenyl-N-[1-(2-phenylethyl)-4-(phenylmethoxymethyl)-4-piperidinyl]propanamide hydrochloride | Cl.C1(=CC=CC=C1)N(C(CC)=O)C1(CCN(CC1)CCC1=CC=CC=C1)COCC1=CC=CC=C1
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-[4-(hydroxymethyl)-1-(2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide hydrochloride | Cl.OCC1(CCN(CC1)CCC1=CC=CC=C1)N(C(CC)=O)C1=CC=CC=C1 | InChI=1S/C23H30N2O2.ClH/c1-2-22(27)25(21-11-7-4-8-12-21)23(19-26)14-17-24(18-15-23)16-13-20-9-5-3-6-10-20;/h3-12,26H,2,13-19H2,1H3;1H
